US07728039B2
200 mg (0.83 mmol) of methyl 4-bromocinnamate were dissolved in dry toluene, added with 29 mg (0.025 mmol) of Pd(PPh3)4, a solution of 152 mg (0.91 mmol) of 4-methoxybenzeneboronic acid in 0.5 ml of EtOH, 1.66 ml of 2M Na2CO3 in water, and refluxed 2 h. Addition of EtOAc, washing with water, then with brine, filtration and flash chromatography (Merck silicagel) with Hexane/EtOAc mixtures from 95/5 to 8/2 gave 112 mg of methyl 3-(4-methoxybiphenylyl)acrylate, mp. 175-177° C.

reactant | methyl 4-bromocinnamate | 0.83 mmol, 200 mg | BrC1=CC=C(C=CC(=O)OC)C=C1 | C10H9BrO2
reactant | 4-methoxybenzeneboronic acid | 0.91 mmol, 152 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 0.5 ml | CCO | C2H6O
solvent | Na2CO3 | 2M, 1.66 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.025 mmol, 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(4-methoxybiphenylyl)acrylate | 112 mg | COC1=CC(=C(C=C1)C1=CC=CC=C1)C=CC(=O)OC | C17H16O3
